US08048897B2
(3) Synthesis of 2-(4-Methoxybenzyl)-4-methoxyphenol
To a solution of (2-benzyloxy-5-methoxyphenyl)-(4-methoxyphenyl)methanol (2.54 g, 7.25 mmol) in methanol (50 ml), a 20% palladium hydroxide catalyst (250 mg) was added and furthermore 36% HCl (0.25 mL) was added thereto. The mixture was stirred under a hydrogen atmosphere for 14 hours, and then the catalyst was filtered off. The solvent was distilled under reduced pressure, and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:4)] to obtain the title compound (1.62 g, 91%).

reactant | (2-benzyloxy-5-methoxyphenyl)-(4-methoxyphenyl)methanol | 7.25 mmol, 2.54 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC)C(O)C1=CC=C(C=C1)OC | C22H22O4
reactant | HCl | 0.25 mL | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium hydroxide | 250 mg | [OH-].[Pd+2].[OH-]
product | 2-(4-Methoxybenzyl)-4-methoxyphenol | 1.62 g, 91% | COC1=CC=C(CC2=C(C=CC(=C2)OC)O)C=C1 | C15H16O3
